US08044213B2
To a mixture of 1.0 g (6.37 mmole) of 3-fluoro-4-nitrophenol, 1.78 g (8.27 mmole) of 4-hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester, 2.81 g (10.71 mmole) of triphenylphosphine and 50 mL of tetrahydrofuran was added 1.67 mL (10.71 mmole) of diethylazodicarboxylate. The mixture was stirred at room temperature for 18 hours and then concentrated under reduced pressure. The residue was purified by silica gel chromatography eluting with ethyl acetate-hexanes (gradient 0:100-40:60) to give 2.16 g of 4-(3-fluoro-4-nitro-phenoxymethyl)-piperidine-1-carboxylic acid tert-butyl ester (IV.23).

reactant | 3-fluoro-4-nitrophenol | 6.37 mmole, 1.0 g | FC=1C=C(C=CC1[N+](=O)[O-])O | C6H4FNO3
reactant | 4-hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester | 8.27 mmole, 1.78 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CO | C11H21NO3
reactant | triphenylphosphine | 10.71 mmole, 2.81 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 10.71 mmole, 1.67 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 4-(3-fluoro-4-nitro-phenoxymethyl)-piperidine-1-carboxylic acid tert-butyl ester | 2.16 g | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=CC(=C(C=C1)[N+](=O)[O-])F | C17H23FN2O5
